US05447957
e) 2-[2-[3-[3,5-Bis (trifluoromethyl)phenyl]ureido]-4-trifluoromethylphenoxy]-5-(1,1,3,3tetramethylbutyl)benzoic acid
2-(2-amino-4-trifluoromethyphenoxy)-5-(1,1,3,3-tetramethylbutyl)benzoic acid (140 mg, 0.0003 mol) and 3,5-di(trifluoromethyl)phenyl isocyanate (86 μl, 0.0005 mol) were mixed in pyridine (8 ml) at room temperature 16 h. The solvent was evaporated and the residue flash chromatographed (silica gel, ethyl acetate/hexane/formic acid) to yield the title compound; mp 233° C.

reactant | 2-(2-amino-4-trifluoromethyphenoxy)-5-(1,1,3,3-tetramethylbutyl)benzoic acid | 0.0003 mol, 140 mg | NC1=C(OC2=C(C(=O)O)C=C(C=C2)C(CC(C)(C)C)(C)C)C=CC(=C1)C(F)(F)F | C22H26F3NO3
reactant | 3,5-di(trifluoromethyl)phenyl isocyanate | 0.0005 mol, 86 μl | FC(C=1C=C(C=C(C1)C(F)(F)F)N=C=O)(F)F | C9H3F6NO
solvent | pyridine | 8 ml | N1=CC=CC=C1 | C5H5N
product | 2-[2-[3-[3,5-Bis (trifluoromethyl)phenyl]ureido]-4-trifluoromethylphenoxy]-5-(1,1,3,3tetramethylbutyl)benzoic acid | FC(C=1C=C(C=C(C1)C(F)(F)F)NC(NC1=C(OC2=C(C(=O)O)C=C(C=C2)C(CC(C)(C)C)(C)C)C=CC(=C1)C(F)(F)F)=O)(F)F | C31H29F9N2O4
